* SPICE netlist for the given circuit
VDD 3 0 DC 5V
RD1 3 4 10k
RD2 6 4 10k
M1 4 1 4 4 NMOS
? Missing component
M3 4 2 0 0 NMOS
Vin 1 0 DC 0V
Vcont 2 0 DC 0V
.model NMOS NMOS level=1
.end
